US08975254B2
a) 2-(Pent-4-yn-2-yloxy)tetrahydro-2H-pyran
(+/−)-4-Pentyn-2-ol (5.58 ml, 59.4 mmol) and 3,4-dihydro-2H-pyran (8.08 ml, 89 mmol) were dissolved in DCM (100 ml). 4-Toluenesulfonic acid pyridine salt (1.494 g, 5.94 mmol) was added and the resulting mixture was stirred for 4 h at RT with CaCl2-tube. The mixture was concentrated. 50 ml of diethyl ether was added, extracted with brine and dried with MgSO, filtered and evaporated. The product was used in the subsequent steps without further purifications. LC-MS: [M+1]=169.23.

reactant | (+/−)-4-Pentyn-2-ol | 59.4 mmol, 5.58 ml | CC(CC#C)O | C5H8O
reactant | 3,4-dihydro-2H-pyran | 89 mmol, 8.08 ml | O1CCCC=C1 | C5H8O
reactant | 4-Toluenesulfonic acid pyridine salt | 5.94 mmol, 1.494 g | N1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(Pent-4-yn-2-yloxy)tetrahydro-2H-pyran | CC(CC#C)OC1OCCCC1 | C10H16O2
